US08304371B2
To a solution of 1-(2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl)methanamine (0.15 g) in THF (10 ml) was added acetic anhydride (0.04 g), and the mixture was stirred for 1 hour at room temperature. The mixture was concentrated under reduced pressure to give residual material which was purified by silica gel chromatography, to obtain N-{2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl}acetamide (0.1 g).

reactant | 1-(2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl)methanamine | 0.15 g | BrC1=C(C=CC(=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CN | C18H14BrCl2F3N2
reactant | acetic anhydride | 0.04 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-{2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl}acetamide | 0.1 g | BrC1=C(CNC(C)=O)C=CC(=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H16BrCl2F3N2O
